US05500474
8-Anilino-1-octanesulfonic acid sodium salt (10.0 g, 0.5 mol) is dissolved in aqueous 0.5M HCl solution (30 mL) and acetonitrile (400 mL) is added to the solution. The solution is filtered and the filtrate is kept in a refrigerator overnight to obtain 8-anilino-1-octanesulfonic acid as white precipitates. The precipitates are collected by filtration, dissolved in water, neutralized by aniline, and then concentrated under reduced pressure to give a white solid.

reactant | 8-Anilino-1-octanesulfonic acid sodium salt | 0.5 mol, 10.0 g | [Na+].N(C1=CC=CC=C1)CCCCCCCCS(=O)(=O)[O-]
solvent | HCl | 0.5M, 30 mL | Cl | ClH
solvent | acetonitrile | 400 mL | C(C)#N | C2H3N
product | 8-anilino-1-octanesulfonic acid | N(C1=CC=CC=C1)CCCCCCCCS(=O)(=O)O | C14H23NO3S
